Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
simvastatin
 
Attending: ___.
 
Chief Complaint:
Left inguinal hernia 
 
Major Surgical or Invasive Procedure:
Left inguinal hernia repair 
 
History of Present Illness:
___ year old  with hx of basilar infarct presenting to the 
hospital for pre operative anticoagulation management. Patient 
had procedure scheduled back in ___ but had to be admitted 
to the hospital due to a 11 cm right rectus sheath hematoma due 
to bridging therapy with lovenox. Patient hematoma is now 
resolving and the patient was advised to discontinue the lovenox 
and restart his Coumadin anticoagulation. The patient prior to 
arrival to the hospital the
Coumadin was holded on ___ as indicated by Dr. ___ in 
his ___ clinic. Patients wife indicates that on the 
morning of admission the patients INR was 1.9

 
Past Medical History:
- Basilar thrombosis with resultant infarcts in the cerebellum,
pons, and midbrain
- Hypertension
- Diabetes mellitus
- HLD
 
Social History:
___
Family History:
- No h/o strokes, clotting disorders
- Mother died of lung Ca (smoker)
 
Physical Exam:
Physical exam:
Vitals: T BP HR RR O2Sat 
General: AAOx3, NAD
HEENT: EOMI, CN ___ intact 
Cardiac: RRR, Normal S1, S2
Respiratory: Breathing comfortably on room air, CTAB
Abdomen: Incision site is non-tender, non-erythematous, and 
flat. Tense right abdomen from previous hematoma but no 
overlying ecchymosis, left abdomen soft. No rebound or guarding. 

Ext: Warm and well perfused. No evidence of cyanosis or 
clubbing. 
 
Pertinent Results:
___ 05:20PM   ___ PTT-37.6* ___
___ 05:20PM   PLT COUNT-185
___ 05:20PM   WBC-6.4 RBC-4.45* HGB-13.3* HCT-41.5# MCV-93 
MCH-29.9 MCHC-32.0 RDW-12.6 RDWSD-43.1
___ 05:20PM   CALCIUM-9.2 PHOSPHATE-3.6 MAGNESIUM-2.0
___ 05:20PM   estGFR-Using this
___ 05:20PM   GLUCOSE-84 UREA N-13 CREAT-0.7 SODIUM-144 
POTASSIUM-3.6 CHLORIDE-107 TOTAL CO2-31 ANION GAP-10
 
Brief Hospital Course:
The patient presented to pre-op on ___ and was started on a 
heparin drip. Once PTT was therapeutic, he was evaluated by 
anesthesia and taken to the operating room for a left inguinal 
hernia repair. There were no adverse events in the operating 
room; please see the operative note for details.  Pt was 
extubated, taken to the PACU until stable, then transferred to 
the ward for observation. He was bridged with heparin onto 
warfarin. On POD #3, patient had an episode of hypotension to 
70/40. He received a 1000 mL LR bolus and blood work was sent 
for CBC and electrolytes. He responded well to the fluid bolus 
and his blood pressure returned to baseline. INR on ___ was 
subtherapeutic on ___, patient was discharged from the 
hospital on a lovenox bridge and will follow up with his primary 
care provider ___ ___.  

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with PO oxycodone.
 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet and incentive spirometry were encouraged throughout 
hospitalization. 

GI/GU/FEN: Postoperatively, patient was able to tolerate a 
regular diet. Patient's intake and output were closely 
monitored. On POD #3 patient had an episode of hypotension to 
70/40. He received a 1000 mL bolus of LR, to which he responded 
well and returned to baseline.    

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none. Preoperatively, warfarin 
was held and patient was started on a heparin drip. 
Postoperatively, patient was bridged with heparin back onto 
warfarin and discharged on a lovenox bridge. 

Prophylaxis: The patient received a heparin drip and ___ dyne 
boots were used during this stay.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
voiding without assistance, and pain was well controlled.  The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atenolol 50 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. ClonazePAM 0.5 mg PO DAILY 
4. Doxazosin 4 mg PO HS 
5. Glycopyrrolate 1 mg PO TID 
6. Lisinopril 20 mg PO DAILY 
7. Nuedexta (dextromethorphan-quinidine) ___ mg oral BID 
8. Warfarin 3 mg PO 2X/WEEK (MO,TH) 
9. Warfarin 6 mg PO 5X/WEEK (___) 
10. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Atenolol 50 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. ClonazePAM 0.5 mg PO DAILY 
5. Doxazosin 4 mg PO HS 
6. Glycopyrrolate 1 mg PO TID 
7. Lisinopril 20 mg PO DAILY 
8. Nuedexta (dextromethorphan-quinidine) ___ mg oral BID 
9. Warfarin 3 mg PO 2X/WEEK (MO,TH) 
10. Warfarin 6 mg PO 5X/WEEK (___) 
11. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
12. Enoxaparin Sodium 80 mg SC TWICE A DAY 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 80 mg/0.8 mL 1 syringe subcutaneous twice a day 
Disp #*30 Syringe Refills:*0
13. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0
14. Senna 17.2 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*30 Capsule Refills:*0
15. Tamsulosin 0.4 mg PO DAILY 
RX *tamsulosin [Flomax] 0.4 mg 1 capsule(s) by mouth at bedtime 
Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left inguinal hernia 
 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Non-ambulatory (baseline) 
 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
 
Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.
 
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery. 
 
 
Followup Instructions:
___